US07217560B2
(R)-Methyl 2-benzyloxypropionate
At −30° C., benzyl bromide (9.86 g) and 60% sodium hydride (2.11 g) were dissolved in a mixed solution of dimethyl formamide (DMF) and tetrahydrofuran (THF) (50 mL, 3:2 volume ratio). (R)-Methyl lactate (5.0 g, 99% ee) was added to the solution. At the same temperature, the resultant mixture was stirred for 30 minutes. Thereafter, the mixture was stirred at room temperature for 30 minutes and further at 50° C. for 30 minutes. Water and diisopropyl ether were added to the reaction mixture, and the organic layer was washed with water and then dried over anhydrous magnesium sulfate. After the solvent was distilled off, the resultant residue was subjected to chromatography on a silica gel column to afford the title compound as a yellow oil (8.87 g, 92.1% ee).

reactant | benzyl bromide | 9.86 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 2.11 g | [H-].[Na+]
reactant | (R)-Methyl lactate | 5.0 g | C([C@H](O)C)(=O)OC | C4H8O3
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | (R)-Methyl 2-benzyloxypropionate | 8.87 g | C(C1=CC=CC=C1)O[C@@H](C(=O)OC)C | C11H14O3
